US07951800B2
To the suspension of 1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin-2(1H)-one (984.4 mg, 4.28 mmol) in 1,4-dioxane (40 mL) was added pyridine (2.8 mL, 34.6 mmol) and tris(methylthio)methyl methyl sulfate (prepared using the procedures in SYNTHESIS, 22-25, 1988; M. Barbero, S. Cadamuro, I. Degani, R. Fochi, A. Gatti, V. Regondi) (2.26 g, 8.55 mmol) at room temperature. The suspension was put in a preheated oil bath at 55° C. and stirred for 15 minutes. To the solution was added another portion of tris(methylthio)methyl methyl sulfate (2.26 g, 8.55 mmol) and the mixture was stirred at 55° C. for 15 minutes and cooled to room temperature. The mixture was concentrated in vacuo and the residue was diluted with dichloromethane and loaded on a silica gel column and eluted with dichloromethane, 2% ethyl acetate/dichloromethane and then 5% ethyl acetate/dichloromethane to give 3-[bis(methylthio)methylene]-1-[(cyclopropylmethyl)amino] quinoline-2,4(1H,3H)-dione (852.1 mg, 60%). 1H NMR (300 MHz, DMSO-d6) δ 0.15 (m, 2 H) 0.42 (m, 2 H) 0.98 (m, 1 H) 2.61 (s, 6 H) 2.73 (t, J=6.43 Hz, 2 H) 6.05 (t, J=5.88 Hz, 1 H) 7.15 (m, 1 H) 7.64 (m, 1 H) 7.76 (d, J=8.09 Hz, 1 H) 7.98 (m, 1 H).

reactant | 1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin-2(1H)-one | 4.28 mmol, 984.4 mg | C1(CC1)CNN1C(C=C(C2=CC=CC=C12)O)=O | C13H14N2O2
reactant | pyridine | 34.6 mmol, 2.8 mL | N1=CC=CC=C1 | C5H5N
reactant | tris(methylthio)methyl methyl sulfate | S(=O)(=O)(OC(SC)(SC)SC)OC | C5H12O4S4
reactant | tris(methylthio)methyl methyl sulfate | 8.55 mmol, 2.26 g | S(=O)(=O)(OC(SC)(SC)SC)OC | C5H12O4S4
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 3-[bis(methylthio)methylene]-1-[(cyclopropylmethyl)amino] quinoline-2,4(1H,3H)-dione | 852.1 mg, 60% | CSC(=C1C(N(C2=CC=CC=C2C1=O)NCC1CC1)=O)SC | C16H18N2O2S2
